Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/HIV (CD4 reported to be high, but non-compliant w/ART, 
supposed to be on Atripla), HCV, bipolar disorder, homeless, who 
presents with cough. 

Her symptoms began 3 days ago, which was sudden onset, and 
productive of yellow sputum, no hemoptysis. No fevers. Cough 
seems to be more dry now. She has had shortness of breath, and 
pleuritic chest pain that is worse w/ coughing. Reports some 
pain between her scapula and left side of chest. Some N/V as 
well. Reports having PNA ___ year ago, reports last IVDU 2 months 
ago. Smokes 5 cigarettes per day. IN the ED, a peak flow was 200 
(unclear baseline). Reported exposure to a girlfriend who had TB 
(unclear if latent or active). Has been off ART for at least 3 
weeks. 

In the ED, initial vitals: temp 98.1 95 124/77 18 97% RA 
Labs were significant for WBC 8.1 with normal differential 
CXR showed no acute cardiopulmonary process  
She was given albuterol nebs. There is no record of an ECG. 
The ID Fellow on call was paged, who recommended (per report) 
that AFB smear x3 would be the most conservative approach to 
patient care, Decision was thus made to admit the patient for a 
TB rule-out. 

Vitals prior to transfer: 97.9 93 117/82 25 97% RA  

 
Past Medical History:
- HIV
- HCV
- Bipolar disorder
- Homeless
- Tobacco abuse 
- IVDU
 
Social History:
___
Family History:
alcoholism in parents 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 98.2 92 121/73 18 98% RA  
GEN: Alert, lying in bed, no acute distress, well dressed, very 
pleasant, able to walk around the room without difficulty   
HEENT: MMM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: mild expiratory wheeze in all lung fields, no rales  
COR: RRR, no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal  

DISCHARGE PHYSICAL EXAM:  
VS: 97.3 106/68 58 16 97% RA  
GEN: Alert, lying in bed, no acute distress
HEENT: MMM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: coarse BS, no wheeze or rales  
COR: RRR, no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal  
 
Pertinent Results:
___ 06:00PM   GLUCOSE-78 UREA N-14 CREAT-0.4 SODIUM-141 
POTASSIUM-3.2* CHLORIDE-103 TOTAL CO2-23 ANION GAP-18
___ 06:00PM   WBC-8.1 RBC-5.03 HGB-15.2 HCT-44.3# MCV-88 
MCH-30.2 MCHC-34.3 RDW-11.9 RDWSD-38.3
___ 06:00PM   NEUTS-63.3 ___ MONOS-6.4 EOS-1.5 
BASOS-0.6 IM ___ AbsNeut-5.15 AbsLymp-2.28 AbsMono-0.52 
AbsEos-0.12 AbsBaso-0.05
___ 06:00PM   PLT COUNT-209

Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence.

Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 

HIV-1 Viral Load/Ultrasensitive (Final ___: 
      568 copies/ml.

___ 11:20 pm SPUTUM      Source: Induced. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

 
Brief Hospital Course:
Acute viral bronchitis: improving, with Cough, given her HIV 
status and the unclear history regarding TB exposure in this 
patient whose CD4 count is unknown, admitted for TB rule out. 
Flu, respiratory viral panel, Induced AFB smear, Ulegionella 
neg. Continue albuterol inhaler prn. Tessalon pearls and 
dextromethorphan for symptomatic relief 

HIV: per report, CD4 count was > 700 earlier this ___. her 
primary provider is at ___ Homeless. Much 
of her prior care is reportedly at ___ ___. 
Continue to hold Atripla until there is a clear plan for
compliance, to avoid acquired resistance. Confirmed medication 
list with ___. Pt will need to establish 
consistent care with ___, and they can resume HIV ART once pt has demonstrated 
that she can continue therapy without interruption. CD4 count 
559. VL 568.

IVDU: reports being sober from heroin x1 month. Will need 
ongoing social support. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ATRIPLA (efavirenz-emtricitabin-tenofov) ___ mg oral 
DAILY 
2. Sertraline 50 mg PO DAILY 
3. Propranolol 20 mg PO TID 
4. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze 
5. BuPROPion (Sustained Release) 150 mg PO QAM 
6. Gabapentin 400 mg PO TID 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 150 mg PO QAM 
RX *bupropion HCl 150 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0
2. Gabapentin 400 mg PO TID 
RX *gabapentin 400 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0
3. Propranolol 20 mg PO TID 
RX *propranolol 20 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0
4. Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
5. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze 
RX *albuterol sulfate [Proventil HFA] 90 mcg ___ puff INH every 
six (6) hours Disp #*1 Inhaler Refills:*0
6. Benzonatate 100 mg PO TID Duration: 1 Week 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0
7. Guaifenesin-Dextromethorphan ___ mL PO Q6H:PRN cough 
Duration: 1 Week 
RX *dextromethorphan-guaifenesin [Guaifenesin-DM] 100 mg-10 mg/5 
mL ___ mL by mouth every six (6) hours Disp #*1 Bottle 
Refills:*0
8. ATRIPLA (efavirenz-emtricitabin-tenofov) ___ mg oral 
DAILY 
You will need to re-establish care with ___ to get a 
new prescription 
9. Amitriptyline 25 mg PO QHS 
RX *amitriptyline 25 mg 1 tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral Bronchitis
HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, you were admitted due to a viral bronchitis. Due to 
your HIV status you underwent testing to ensure you don't have 
TB. You do not have TB or the flu. Please follow up with your 
HIV team at ___ to get back on your Atripla.
 
Followup Instructions:
___